US07157487B2
Diisopropylamine (2.83 ml, 20.0 mmol) was dissolved in THF (35 ml). Under stirring at −78° C., n-butyl lithium (12.7 ml, 20.0 mmol, a 1.57M hexane solution) was added to the resulting solution. After stirring at 0° C. for 15 minutes, the reaction mixture was cooled again to −78° C. Under stirring, a solution of 1-methyl-1H-indole-3-carboxylic acid (1.75 g, 10.0 mmol) in THF (5 ml) was added. After the reaction mixture was stirred at the same temperature for 30 minutes, methyl iodide (3.42 ml, 55.0 mmol) was added. The reaction mixture was caused to rise back to room temperature over 30 minutes. The reaction mixture was poured into water and the mixture was stirred for 18 hours at room temperature. The reaction mixture was washed with ether. The water layer was acidified with 1M HCl, followed by extraction with ether. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel chromatography (middle pressure, linear gradient of chloroform/methanol from 10:0 to 20:1, 20 ml/min, φ 50×300 mm) to give 1,2-dimethyl-1H-indole-3-carboxylic acid (180 mg, 10%) as a colorless solid.

reactant | Diisopropylamine | 20.0 mmol, 2.83 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-methyl-1H-indole-3-carboxylic acid | 10.0 mmol, 1.75 g | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | methyl iodide | 55.0 mmol, 3.42 ml | CI | CH3I
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | hexane | 1.57M | CCCCCC | C6H14
product | 1,2-dimethyl-1H-indole-3-carboxylic acid | 180 mg, 10% | CN1C(=C(C2=CC=CC=C12)C(=O)O)C | C11H11NO2
